US06605633B1
Ethyl 5-Chloro-2-(4-nitrophenyl)-1H-indole-3-butanoate
A mixture of 200 mg (0.58.10−3 mol) of ethyl 2-bromo-5-chloro-1H-indole-3-butanoate, 498 mg (1.74.10−3 mol) of trimethyl(4-nitrophenyl)tin, 140 mg (0.46.10−3 mol) of triphenylarsine, 108 mg (0.12.10−3 mol) of tris(dibenzylideneacetone)dipalladium and 12 ml of dioxane is prepared and this reaction medium is heated at 50° C. for 6 days, with stirring. After cooling, 12 ml of water are added and the mixture is then extracted with ethyl ether. The organic phase is subsequently washed with water and then dried and concentrated under reduced pressure. The residue is purified by chromatography on silica gel using a petroleum ether/ethyl acetate mixture (85/15; v/v) as the eluent. The fractions containing the expected compound are purified again by reversed phase chromatography on C18-grafted silica using an acetonitrile/water mixture (7/3; v/v) as the eluent to give 70 mg of the expected compound in the form of a yellow paste (yield=31%).

reactant | ethyl 2-bromo-5-chloro-1H-indole-3-butanoate | 58.10−3 mol, 200 mg | BrC=1NC2=CC=C(C=C2C1CCCC(=O)OCC)Cl | C14H15BrClNO2
reactant | trimethyl(4-nitrophenyl)tin | 498 mg | C[Sn](C1=CC=C(C=C1)[N+](=O)[O-])(C)C
reactant | triphenylarsine | 46.10−3 mol, 140 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | dioxane | 12 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 12.10−3 mol, 108 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 12 ml | O | H2O
product | Ethyl 5-Chloro-2-(4-nitrophenyl)-1H-indole-3-butanoate | 70 mg, yield=31% | ClC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)[N+](=O)[O-])CCCC(=O)OCC | C20H19ClN2O4
